US07408188B2
2-Dodecylthiophene (100 g, 396 mmol, 1 eq) prepared above was placed in a three-necked flask equipped with a dropping funnel and a reflux tube. The atmosphere in the flask was replaced by Ar, 400 ml of dehydrated N,N-dimethylfolmamid (hereinafter referred to as “DMF”) was added thereto, and the mixture was stirred. The reaction solution was cooled to 0° C., and N-bromosuccinimide (84.5 g, 475 mmol, 1.2 eq) dissolved in 120 ml of dehydrated DMF in a separate vessel was added dropwise to the reaction solution. After the completion of the dropwise addition, the mixture was stirred for one hr, was brought to room temperature, and was stirred for 6 hr. The solvent was removed by evaporation, and the residue was extracted with diethyl ether, followed by washing with water until pH=7. The extract was dehydrated over Na2SO4, and the solvent was removed by evaporation, and the residue was purified by chromatography on silica gel to give an objective substance 2-bromo-5-dodecylthiophene (about 118 g yield about 90%) as a light yellow liquid. An NMR spectrum of the compound thus obtained was measured at room temperature with an NMR spectrometer (model JNM-LA400W, manufactured by Japan Electric Optical Laboratory). 1H-NMR (CDCl3, TMS/ppm): 0.88 (t, 3H, J=6.83 Hz), 1.26 (m, 18H), 1.62 (m, 2H), 2.73 (t, 2H, J=7.32 Hz), 6,53 (d, 2H, J=4.39 Hz), 6.84 (d, 2H, J=3.90 Hz).

reactant | 2-Dodecylthiophene | 396 mmol, 100 g, 1 eq | C(CCCCCCCCCCC)C=1SC=CC1 | C16H28S
reactant | N-bromosuccinimide | 475 mmol, 84.5 g, 1.2 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 2-bromo-5-dodecylthiophene | about 118 g, yield about 90% | BrC=1SC(=CC1)CCCCCCCCCCCC | C16H27BrS
